US07749972B2
A mixture of 1-[2-(4-hydroxyphenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole (50 mg), cesium carbonate (43 mg) and methyl iodide (0.008 mL) in acetone (2 mL) was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: n-hexane/ethyl acetate=5/1) to give 1-[2-(4-methoxyphenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole (51 mg). This material was dissolved in methanol (1 mL). To the solution were added water (0.1 mL) and lithium hydroxide monohydrate (13 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on silica gel (eluent: methylene chloride/methanol=8/1) to give the title compound (19 mg).

reactant | 1-[2-(4-hydroxyphenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole | 50 mg | OC1=CC=C(C=C1)CCN1C=CC2=CC=CC(=C12)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H57NO11
reactant | cesium carbonate | 43 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.008 mL | CI | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 1-[2-(4-methoxyphenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole | 51 mg | COC1=CC=C(C=C1)CCN1C=CC2=CC=CC(=C12)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C43H59NO11
